US07528129B2
11.1a) (R)-1-(4-benzyloxy-3-chloro-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-Piperidine-1-carboxylate
A solution of 150 mg (0.25 mmol) (R)-2-(4-benzyloxy-3-chloro-5-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 89 mg (0.28 mmol) TBTU and 44 μL (0.32 mmol) triethylamine in 1.5 mL DMF was stirred for 1 h at RT. Then 47 mg (0.28 mmol) 1-(tetrahydropyran-4-yl)-piperazine were added and the reaction solution was stirred for 2 h. The reaction solution was purified by HPLC without any further working up; the fractions containing the product were combined and lyophilised.

reactant | (R)-2-(4-benzyloxy-3-chloro-5-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.25 mmol, 150 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)Cl)C(=O)O)C=CC=C2 | C32H34ClN3O6
reactant | TBTU | 0.28 mmol, 89 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.32 mmol, 44 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.28 mmol, 47 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-benzyloxy-3-chloro-5-methyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-Piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)Cl)C=CC=C2 | C41H50ClN5O6
